US05998433
Synthesis of N,N-dimethyl-(6-tert-butoxycarbonyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine
To a solution of 0.485 g (1.756 mmol) of N,N-dimethyl-(6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine in 10 ml of methanol, 0.49 g (3.5 mmol) of potassium carbonate was added, followed by stirring at room temperature for 1 hour. After the reaction mixture was filtered to remove insoluble substances, the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 30 ml of dichloromethane; 0.38 g (1.8 mmol) of di-tert-butyl dicarbonate was added at room temperature, followed by stirring at room temperature for 0.5 hours. The solvent of the reaction mixture was distilled off under reduced pressure; the resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | N,N-dimethyl-(6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine | 1.756 mmol, 0.485 g | CN(C)CC1=CC2=C(CN(CC2)C(C(F)(F)F)=O)O1 | C12H15F3N2O2
reactant | potassium carbonate | 3.5 mmol, 0.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 1.8 mmol, 0.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 ml | CO | CH4O
product | N,N-dimethyl-(6-tert-butoxycarbonyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine | CN(C)CC1=CC2=C(CN(CC2)C(=O)OC(C)(C)C)O1 | C15H24N2O3
